US07214673B2
(S)-10-[3-(2-Methoxy-benzyl)-piperazin-1-yl]-2-methyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene
By a similar method to the method of Example 460, using 2-methyl-4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-ylamine(0.687 g, 2.98 mmol) and (S)-2-(2-methoxy-benzyl)-piperazine (0.615 g, 2.98 mmol) gives 0.437 g of the title compound as a yellow solid: mass spectrum (ion spray): m/z=420 (M+1); Analysis for C23H25N5OS(0.5 H2O): calcd: C, 64.46; H, 6.12; N, 16.34; found: C, 64.20; H, 5.77; N, 16.14.

reactant | 2-methyl-4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-ylamine | 2.98 mmol, 0.687 g | CC1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N | C11H10N4S
reactant | (S)-2-(2-methoxy-benzyl)-piperazine | 2.98 mmol, 0.615 g | COC1=C(C[C@@H]2NCCNC2)C=CC=C1 | C12H18N2O
product | (S)-10-[3-(2-Methoxy-benzyl)-piperazin-1-yl]-2-methyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene | 0.437 g | COC1=C(C[C@H]2CN(CCN2)C2=NC3=C(NC=4SC(=NC24)C)C=CC=C3)C=CC=C1 | C23H25N5OS
